US08497368B2
(E)-2-(1-(3-((5,7-Difluoroquinolin-6-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)ethylidene)hydrazinecarboxamide (Example 40)
A mixture of 1-[3-(5,7-difluoro-quinolin-6-ylmethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]-ethanone (38 mg, 0.112 mmol), semicarbazide (37.5 mg, 0.336 mmol) and sodium bicarbonate (40 mg, 0.67 mmol) in methanol (3 mL) was stirred at 40° C. for 20 h. LC/MS showed the reaction was complete, and the suspension was filtered. The filtrate cake was washed successively with cold water and methanol, and then dried to afford 36.3 mg (82% yield) of the title compound as white solid. 1H-NMR (400 MHz, DMSO-d6) δ ppm 9.85 (s, 1H), 8.99 (dd, 1H), 8.49 (d, 1H), 8.35 (d, 1H), 8.18 (d, 1H), 7.73 (d, 1H), 7.62 (dd, 1H), 6.82 (s br, 2H), 4.75 (s, 2H), 2.19 (s, 3H). LCMS (method A): [MH]+=397, tR=4.43 min.

reactant | 1-[3-(5,7-difluoro-quinolin-6-ylmethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]-ethanone | 0.112 mmol, 38 mg | FC1=C2C=CC=NC2=CC(=C1CC1=NN=C2N1N=C(C=C2)C(C)=O)F | C17H11F2N5O
reactant | semicarbazide | 0.336 mmol, 37.5 mg | NNC(=O)N | CH5N3O
reactant | sodium bicarbonate | 0.67 mmol, 40 mg | C([O-])(O)=O.[Na+]
solvent | methanol | 3 mL | CO | CH4O
product | (E)-2-(1-(3-((5,7-Difluoroquinolin-6-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)ethylidene)hydrazinecarboxamide | 36.3 mg, 82% yield | FC1=C2C=CC=NC2=CC(=C1CC1=NN=C2N1N=C(C=C2)\C(\C)=N\NC(=O)N)F | C18H14F2N8O
